US05472978
a) 3,5-Bistrifluoromethylbenzyl 2-(1,1-dimethylethoxycarbonylamino)-3-(3-indolyl)propionate
Following the method of Example 1, 3,5-bistrifluoromethylbenzyl bromide (4.9 g) and N α BOC-L-tryptophan (5 g) gave the title compound after recrystallisation from ethyl acetate/petroleum ether.

reactant | 3,5-bistrifluoromethylbenzyl bromide | 4.9 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | BOC-L-tryptophan | 5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
product | 3,5-Bistrifluoromethylbenzyl 2-(1,1-dimethylethoxycarbonylamino)-3-(3-indolyl)propionate | CC(C)(OC(=O)NC(C(=O)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CNC2=CC=CC=C12)C | C25H24F6N2O4
